US04539420
791 Mg (5.00 mmols) of β-methoxynaphthalene and 933 mg (5.00 mmols) of (S)-2-(methylsulfonyloxy)propionyl chloride were dissolved in 5 ml of anhydrous o-dichlorobenzene, followed by stirring at room temperature. To the solution was added 296 mg of dry ferric sulfate obtained by drying ferric sulfate heptahydrate at 150° C. for 3 hours in vacuo, and the mixture was stirred at 70° C. for 18 hours under an argon gas stream. 30 Ml of water was added to the mixture, which was then extracted with methylene chloride (30 ml×2). The extract was washed with water (10 ml×2), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily residue was purified by column chromatography (silica gel, methylene chloride) to obtain (S)-1-(6-methoxy-2-naphthyl-2-methylsulfonyloxy-1-propanone as a colorless glass-like material having [α]D26 -35.6°(c=0.982, CHCl3). The resulting product was crystallized in methanol and recrystallized from the same solvent to obtain colorless needles having a melting point of 156°-157° C.

reactant | β-methoxynaphthalene | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | (S)-2-(methylsulfonyloxy)propionyl chloride | 5.00 mmols, 933 mg | CS(=O)(=O)O[C@H](C(=O)Cl)C | C4H7ClO4S
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-methoxy-2-naphthyl-2-methylsulfonyloxy-1-propanone | COC=1C=C2C=CC(=CC2=CC1)C(C(C)OS(=O)(=O)C)=O | C15H16O5S
